US07521455B2
(4) Manufacture of 2-ethyl-3-{4-[3-(1-piperidinyl)propoxy]phenyl}-4(3H)-quinazolinone
2-ethyl-3-[4-(3-chloropropoxy)phenyl]-4(3H)-quinazolinone (19 g, 55.6 mmol), piperidine (23.7 g, 278 mmol), potassium carbonate (11.5 g, 83.4 mmol) and potassium iodide (13.8 g, 83.4 mmol) were mixed in dimethylformamide (400 mL) and stirred at 80° C. for 24 hours.

reactant | 2-ethyl-3-[4-(3-chloropropoxy)phenyl]-4(3H)-quinazolinone | 55.6 mmol, 19 g | C(C)C1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)OCCCCl)=O | C19H19ClN2O2
reactant | piperidine | 278 mmol, 23.7 g | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 83.4 mmol, 11.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 83.4 mmol, 13.8 g | [I-].[K+]
solvent | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 2-ethyl-3-{4-[3-(1-piperidinyl)propoxy]phenyl}-4(3H)-quinazolinone | C(C)C1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)OCCCN1CCCCC1)=O | C24H29N3O2
